US07820664B2
Step F: Methyl 1-allyl-7-fluoro-6-(2-fluoro-4-iodophenylamino)-1H-benzo[d]imidazole-5-carboxylate:
A stirred suspension of methyl 4-(allylamino)-5-amino-3-fluoro-2-(2-fluoro-4-iodophenylamino)benzoate (3.4 g, 7.4 mmoles)) and formamide acetate (3.8 g, 36.4 mmoles) in methanol (30 ml) is heated under reflux for 3 hours. The reaction mixture is cooled to room temperature and a saturated aqueous solution of sodium bicarbonate (30 ml) and water (30 ml) are added. The resulting precipitate is filtered and dried under vacuum to obtain the title compound.

reactant | methyl 4-(allylamino)-5-amino-3-fluoro-2-(2-fluoro-4-iodophenylamino)benzoate | 7.4 mmoles, 3.4 g | C(C=C)NC1=C(C(=C(C(=O)OC)C=C1N)NC1=C(C=C(C=C1)I)F)F | C17H16F2IN3O2
reactant | formamide acetate | 36.4 mmoles, 3.8 g | C(C)(=O)O.C(=O)N
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
reactant | water | 30 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | Methyl 1-allyl-7-fluoro-6-(2-fluoro-4-iodophenylamino)-1H-benzo[d]imidazole-5-carboxylate | C(C=C)N1C=NC2=C1C(=C(C(=C2)C(=O)OC)NC2=C(C=C(C=C2)I)F)F | C18H14F2IN3O2
